US06225311B1
A solution of 1.695 g (3.10 mmol) of methyl (2R)-(4-{2-[(tert-butoxycarbonyl)amino]ethoxy}phenyl){[(9H-fluoren-9-ylmethoxy)carbonyl]amino}ethanoate in 10 mL of diethylamine was stirred at room temperature for 2 h and then concentrated in vacuo. The residue was chromatographed on silica gel eluting with a gradient starting with ethyl acetate/hexanes (1:2) and ending with chloroform/methanol (9:1) to provide 0.717 g of methyl (2R)-amino(4-{2-[(tert-butoxycarbonyl)amino]ethoxy}phenyl)ethanoate as a colorless oil. Electrospray Mass Spec 325.2 (M+H)+

reactant | methyl (2R)-(4-{2-[(tert-butoxycarbonyl)amino]ethoxy}phenyl){[(9H-fluoren-9-ylmethoxy)carbonyl]amino}ethanoate | 3.10 mmol, 1.695 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)[C@H](C(=O)OC)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C31H34N2O7
solvent | diethylamine | 10 mL | C(C)NCC | C4H11N
product | methyl (2R)-amino(4-{2-[(tert-butoxycarbonyl)amino]ethoxy}phenyl)ethanoate | 0.717 g | N[C@@H](C(=O)OC)C1=CC=C(C=C1)OCCNC(=O)OC(C)(C)C | C16H24N2O5
